US05811459
5-{4-[2-(2-Benzyloxy-5-bromo-phenyl)ethyl]phenyl}tetrazole
2-(Pivaloyloxymethyl)-5-{-4-[2-(2-hydroxy-5-bromophenyl)ethyl]phenyl tetrazole was converted to N-2-(pivaloyloxymethyl)-5-{-4-[2-(2-benzyloxy-5-bromophenyl)ethyl]-phenyl}tetrazole by the process described in Example 1 for the conversion of 4-[3-(2-hydroxyphenyl)propyl]benzoate to methyl 4-[3-(2-benzyloxyphenyl)propyl]benzoate.

reactant | 4-[2-(2-hydroxy-5-bromophenyl)ethyl]phenyl tetrazole | OC1=C(C=C(C=C1)Br)CCC1=CC=C(C=C1)C1=NN=NN1 | C15H13BrN4O
reactant | 4-[3-(2-hydroxyphenyl)propyl]benzoate | OC1=C(C=CC=C1)CCCC1=CC=C(C(=O)[O-])C=C1
reactant | methyl 4-[3-(2-benzyloxyphenyl)propyl]benzoate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=C(C(=O)OC)C=C1 | C24H24O3
product | 5-{4-[2-(2-Benzyloxy-5-bromo-phenyl)ethyl]phenyl}tetrazole | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)CCC1=CC=C(C=C1)C1=NN=NN1 | C22H19BrN4O
